US04820727
Step (1) Preparation of 1-Bromomethyl-2-fluoro-6-methoxy-5-(trifluoromethyl)naphthalene
A suspension of N-bromosuccinimide (6.93 g, 1.1 eq), benzoyl peroxide (38 mg) and 2-fluoro-6-methoxy-1-methyl-5-(trifluoromethyl)naphthalene (9.14 g, 35.39 mmol) in carbontetrachloride (160 mL) was heated to reflux with stirring under a dry nitrogen atmosphere for 1.5 hours. The reaction mixture was cooled to room temperature and filtered. The solid was washed with carbon tetrachloride (3×30 mL). The solvent was removed from the combined CCl4 phases to provide the product as a white solid in quantitative yield. A small portion of this solid was recrystallized from hexane:ethylacetate, m.p. 97°-100° C.

reactant | N-bromosuccinimide | 6.93 g, 1.1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 38 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-fluoro-6-methoxy-1-methyl-5-(trifluoromethyl)naphthalene | 35.39 mmol, 9.14 g | FC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C | C13H10F4O
solvent | carbontetrachloride | 160 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromomethyl-2-fluoro-6-methoxy-5-(trifluoromethyl)naphthalene | quantitative yield | BrCC1=C(C=CC2=C(C(=CC=C12)OC)C(F)(F)F)F | C13H9BrF4O
